US06039939
trans-4-Hydroxy-L-proline 1-dodecyl ester hydrochloride
Thionyl chloride (15.5 g, 130 mmol) at 25 to 30° C. was added with stirring to 1-dodecanol (190 g, 1.02 mol). After adding trans-4-hydroxy-L-proline (15 g, 114.4 mol), the suspension was stirred for 5 hours at 100° C. The 1-dodecanol was distilled off under reduced pressure from the now clear reaction solution, and the cooled crystalline residue was dissolved in methanol and filtered. The solvent was distilled off under reduced pressure and distillation was interrupted when crystallization started. The residue was precipitated from diethyl ether, then the precipitate was filtered off and washed with diethyl ether. Yield: 35.3 g (105.1 mmol, 92% of theory) of a white crystalline powder. 1H-NMR (CD3SOCD3)δ=0.86 (3H, t), 1.25 (18H, m), 1.61 (2H, m), 2.08 (1H, m), 2.18 (1H, m), 3.06 to 3.3 (partly under H2O signal, m), 4.16 (2H, m) 4.45 (2H, m), 5.53 (1H, m), 9.5 to 10 ppm (2H, broad); 13C-NMR (CD3SOCD3)δ=168.8 (s), 68.4 (d), 65.8 (t), 57.4 (d), 53.2 (d), 37.0(t), 31.2 (t), 28.94 (t), 28.90 (t), 28.86 (t), 28.81 (t), 28.60 (t), 28.51 (t), 27.8 (t), 25.08(t) 22.0 (t), 13.9 ppm (q). MS (ESI) m/e=300.1 (M+of the cation).

reactant | Thionyl chloride | 130 mmol, 15.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-dodecanol | 1.02 mol, 190 g | C(CCCCCCCCCCC)O | C12H26O
reactant | trans-4-hydroxy-L-proline | 114.4 mol, 15 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
product | trans-4-Hydroxy-L-proline 1-dodecyl ester hydrochloride | Cl.C(CCCCCCCCCCC)OC([C@H]1NC[C@@H](C1)O)=O | InChI=1S/C17H33NO3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-21-17(20)16-13-15(19)14-18-16;/h15-16,18-19H,2-14H2,1H3;1H/t15-,16+;/m1./s1
